US08664228B2
{[(Z)-tert-Butoxycarbonylimino]-pyrazol-1-yl-methyl}-[3-(4-methoxy-phenyl)-propyl]-carbamic acid tert-butyl ester
PS-Triphenylphosphine (6.40 g, 12.03 mmol) is added to a solution of 3-(4-methoxyphenyl)-1-propanol (1.00 g, 6.02 mmol) in DCM (300 mL), followed by N,N′-di-Boc-1H-pyrazole-1-carboxamidine (1.87 g, 6.02 mmol). The reaction mixture is cooled to 4° C., and di-tert-butyl azodicarboxylate (1.39 g, 6.02 mmol) is added portionwise. The reaction is stirred for 5 minutes at 4° C., and then allowed to warm to RT. The resulting yellow suspension is stirred at RT overnight. The reaction is filtered to remove the PS-triphenylphosphine, which is rinsed with MeOH (20 mL). The combined filtrates are concentrated in vacuo to afford a colourless oil. iso-Hexane (50 mL) is added, and a fine cream solid precipitates out of solution, which is removed by filtration. The filtrate is concentrated in vacuo, and the resulting white solid is washed with iso-hexane (50 mL). The iso-hexane is concentrated in vacuo, and the resulting pale yellow oil is purified by chromatography (SiO2, EtOAc in iso-hexane, 0%-25%) to afford the title compound crude as a colourless oil. The oil is used in further reactions with no further purification. [M+H]+ 459.

reactant | Triphenylphosphine | 12.03 mmol, 6.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(4-methoxyphenyl)-1-propanol | 6.02 mmol, 1.00 g | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | N,N′-di-Boc-1H-pyrazole-1-carboxamidine | 6.02 mmol, 1.87 g | C(=O)(OC(C)(C)C)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | di-tert-butyl azodicarboxylate | 6.02 mmol, 1.39 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | iso-Hexane | 50 mL | CCCC(C)C | C6H14
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | {[(Z)-tert-Butoxycarbonylimino]-pyrazol-1-yl-methyl}-[3-(4-methoxy-phenyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)OC)/C(/N1N=CC=C1)=N/C(=O)OC(C)(C)C)=O | C24H34N4O5
